US07585886B2
A 650 mg portion of potassium carbonate and 339 mg of 4-fluorobenzonitrile were added to a mixture of 1.0 g of tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate and 10 ml of DMSO and stirred overnight at 110° C. After cooling down to room temperature, the reaction solution was mixed with ethyl acetate, washed with water and saturated brine in that order and dried with anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure, and the thus obtained residue was purified by a silica gel column chromatography (hexane-ethyl acetate) to obtain 723 mg of tert-butyl {[(3R,4S)-1-(4-cyanophenyl)-4-phenylpyrrolidin-3-yl]methyl}[(1R)-1-(1-naphthyl)ethyl]carbamate as a colorless amorphous substance. EP: 532.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzonitrile | 339 mg | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate | 1.0 g | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)C[C@H]1CNC[C@@H]1C1=CC=CC=C1 | C28H34N2O2
reactant | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl {[(3R,4S)-1-(4-cyanophenyl)-4-phenylpyrrolidin-3-yl]methyl}[(1R)-1-(1-naphthyl)ethyl]carbamate | 723 mg | C(#N)C1=CC=C(C=C1)N1C[C@@H]([C@H](C1)C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)[C@H](C)C1=CC=CC2=CC=CC=C12 | C35H37N3O2
